US07189741B2
This compound was prepared following the procedure described in example 1 (part D) starting with 0.2 g (1 mmol) of 3-piperidin-4-yl-1H-indole and 0.33 g (1.3 mmol 5-bromomethyl-2-fluoro-benzoic acid ethyl ester. After ionic exchange purfication, 0.30 g (79% of yield) of 2-fluoro-5-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid ethyl ester were obtained.

reactant | 3-piperidin-4-yl-1H-indole | 1 mmol, 0.2 g | N1CCC(CC1)C1=CNC2=CC=CC=C12 | C13H16N2
reactant | 5-bromomethyl-2-fluoro-benzoic acid ethyl ester | 1.3 mmol | C(C)OC(C1=C(C=CC(=C1)CBr)F)=O | C10H10BrFO2
product | 2-fluoro-5-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid ethyl ester | 0.30 g, 79% | C(C)OC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CNC2=CC=CC=C12)F)=O | C23H25FN2O2
